US07115597B2
2-(2-Methoxy-pyrimidin-4-ylamino)-thiazole-5-carbonitrile (22-13)
A flame dried flask under argon (g) was charged with sodium hydride (33 mg, 60% dispersion, 0.83 mmol) and 1.5 mL anhydrous THF. 2-Methoxy-pyrimidin-4-ylamine (26 mg, 0.21 mmol) was added slowly. After the resulting bubbling ceased, 2-chloro-thiazole-5-carbonitrile (30 mg, 0.21 mmol) was added and the reaction was heated to reflux. After 2 hours, the reaction was cooled to room temperature, the THF was removed in vacuo, and the mixture was diluted with water and adjusted to pH 7 with 1M HCl (aq). The resulting precipitate was filtered, washed with water and air dried. The resulting solid was purified by flash column chromatography (eluted with a gradient 85:15 hexane/EtOAc to EtOAc) to give a pure sample of the title compound. 1H-NMR (300 MHz, DMSO-d6) 12.61 (s, 1H), 8.36 (d, 1H, J=6.4 Hz), 6.73 (d, 1H, J=5.6 Hz), 4.02 (s, 3H). mp>250.

reactant | sodium hydride | 0.83 mmol, 33 mg | [H-].[Na+]
reactant | 2-Methoxy-pyrimidin-4-ylamine | 0.21 mmol, 26 mg | COC1=NC=CC(=N1)N | C5H7N3O
reactant | 2-chloro-thiazole-5-carbonitrile | 0.21 mmol, 30 mg | ClC=1SC(=CN1)C#N | C4HClN2S
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-(2-Methoxy-pyrimidin-4-ylamino)-thiazole-5-carbonitrile | COC1=NC=CC(=N1)NC=1SC(=CN1)C#N | C9H7N5OS
